US05238938
At 0° C., 52 μl of mesyl chloride was added to a mixture of 210 mg of 3-benzyloxy-5-hydroxymethyl-6-methoxy-2-isobutylpyrazine 1-oxide, 2 ml of dichloromethane and 184 μl of triethylamine. The mixture was stirred for 30 minutes at the same temperature, then diethyl ether was added to the reaction mixture. The mixture was washed with water and dried over magnesium sulfate, then the solvent was removed by evaporation. The residue was purified by a silica gel column chromatography (eluting solvent: 50% by volume of ethyl acetate-n-hexane) to obtain 260 mg of 3-benzyloxy-2-isobutyl-6-methoxy-5-mesyloxymethylpyrazine 1-oxide (Compound B-17) as a colorless oily substance.

reactant | mesyl chloride | 52 μl | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 3-benzyloxy-5-hydroxymethyl-6-methoxy-2-isobutylpyrazine 1-oxide | 210 mg | C(C1=CC=CC=C1)OC=1C(=[N+](C(=C(N1)CO)OC)[O-])CC(C)C | C17H22N2O4
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
reactant | triethylamine | 184 μl | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-benzyloxy-2-isobutyl-6-methoxy-5-mesyloxymethylpyrazine 1-oxide | 260 mg | C(C1=CC=CC=C1)OC=1C(=[N+](C(=C(N1)COS(=O)(=O)C)OC)[O-])CC(C)C | C18H24N2O6S
